US06432993B1
t-Butyl N-[2-amino-5-(4-methoxymethoxy-3,5-dimethylphenoxy)phenyl]-N-methylcarbamate
By using 3.12 g of t-butyl N-[5-(4-methoxymethoxy-3,5-dimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate, 0.33 g of 10% palladium on carbon and 30 ml of methanol, reaction and purification were carried out in a similar manner to that described in Reference Example 7, whereby 2.72 g of the title compound were obtained.

reactant | t-butyl N-[5-(4-methoxymethoxy-3,5-dimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate | 3.12 g | COCOC1=C(C=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1C)C | C22H28N2O7
catalyst | palladium on carbon | 0.33 g | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | t-Butyl N-[2-amino-5-(4-methoxymethoxy-3,5-dimethylphenoxy)phenyl]-N-methylcarbamate | 2.72 g | NC1=C(C=C(C=C1)OC1=CC(=C(C(=C1)C)OCOC)C)N(C(OC(C)(C)C)=O)C | C22H30N2O5
